US04348399
As in the method described in Example 31, 4-(hexadecylamino)hydrocinnamic acid chloride hydrochloride is treated with anhydrous ammonia to yield 4-(hexadecylamino)hydrocinnamamide.

reactant | 4-(hexadecylamino)hydrocinnamic acid chloride hydrochloride | Cl.C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)Cl)C=C1
reactant | ammonia | N | H3N
product | 4-(hexadecylamino)hydrocinnamamide | C(CCCCCCCCCCCCCCC)NC1=CC=C(CCC(=O)N)C=C1 | C25H44N2O
